US04614833
A mixture of 40 g 6-chloro-2-pyridinecarboxilic acid and 150 ml SOCl2 is refluxed 4 hrs. After removing excess SOCl2 there is obtained 44 g 6-chloro-2-pyridinecarboxylic acid chloride, m.p. 76° C.

reactant | 6-chloro-2-pyridinecarboxilic acid | 40 g | ClC1=CC=CC(=N1)C(=O)O | C6H4ClNO2
reactant | SOCl2 | 150 ml | O=S(Cl)Cl | Cl2OS
product | 6-chloro-2-pyridinecarboxylic acid chloride | 44 g | ClC1=CC=CC(=N1)C(=O)Cl | C6H3Cl2NO
